* LVS netlist generated with ICnet by 'adn33' on Mon Apr 23 2018 at 22:50:47

*
* Globals.
*
.global GND VDD

*
* Component pathname : /home/adn33/adn33/EECS315_Lab3/nor
*
.subckt nor  A0 A1 OUt

        MN2 OUt A1 GND GND n L=2u W=5u
        MN1 OUt A0 GND GND n L=2u W=5u
        MP2 OUt A1 N$4 VDD p L=2u W=5u
        MP1 N$4 A0 VDD VDD p L=2u W=5u
.ends nor

